US08441002B2
13 g of 2-thiopheneethanol was cooled to 0° C., and to this, a suspension formed by adding 5.8 g of sodium hydride (60% in oil) to 100 ml of tetrahydrofuran was added dropwise. The solution was stirred at 0° C. for 20 minutes under a nitrogen atmosphere, and to this, 25 g of 1-bromododecane was added dropwise. The resulting solution was heated to 90° C. and stirred for 11.5 hours. 100 ml of water and 150 ml of dichloromethane were added to the reaction solution to separate the organic layer. The organic layer was washed with 300 ml of water and then dried over anhydrous magnesium sulfate. The resulting solution was concentrated by a rotary evaporator and purified by a column chromatography (filler: silica gel, eluent: hexane/dichloromethane) to obtain 16 g of 2-(2-dodecyloxyethyl)thiophene.

reactant | 2-thiopheneethanol | 13 g | S1C(=CC=C1)CCO | C6H8OS
reactant | sodium hydride | 5.8 g | [H-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 1-bromododecane | 25 g | BrCCCCCCCCCCCC | C12H25Br
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 2-(2-dodecyloxyethyl)thiophene | 16 g | C(CCCCCCCCCCC)OCCC=1SC=CC1 | C18H32OS
